US04152441
In the course of one hour, 40 ml. (0.085 mol) of a 20% butyl lithium solution in n-hexane were added dropwise with stirring, under a nitrogen atmosphere at -60° C. to a solution of 10.4 g (0.0765 mol) of 1-allyl-4,5-dimethyl-imidazole and 9.3 g (0.080 mol) of N,N,N',N'-tetramethylethylenediamine in 125 ml. of anhydrous tetrahydrofuran. Stirring was continued for another two hours at -60° C. and then 19.5 g (0.078 mol) of 4,4'-dichlorobenzophenone in 100 ml of anhydrous tetrahydrofuran were added dropwise. The reaction mixture was kept standing overnight at room temperature and then 15 ml. of water and some pieces of solid carbon dioxide were added. The mixture was filtered and the filtrate was concentrated. The residue was extracted with a mixture of diethyl ether and 2 N hydrochloric acid. The aqueous phase was made alkaline with potassium carbonate and extracted with diethyl ether. The extract was dried over sodium sulphate and concentrated. The residue was extracted again with 2 N hydrochloric acid and diethyl ether and the aqueous phase was made alkaline again with potassium carbonate. The solid matter formed was filtered off and dissolved in boiling petroleum ether (boiling range 60°-80° C.). The undissolved material was filtered off and the petroleum ether was distilled off. The residue was taken up in a very small amount of diethyl ether. The solution was cooled in a mixture of carbon dioxide and acetone and the precipitate was filtered off. α,α-Bis(p-chlorophenyl)-4,5-dimethyl-1-(1-propenyl)imidazole-2-methanol was obtained. Melting point 127°-128° C.

reactant | butyl lithium | C(CCC)[Li]
reactant | 1-allyl-4,5-dimethyl-imidazole | 0.0765 mol, 10.4 g | C(C=C)N1C=NC(=C1C)C | C8H12N2
reactant | N,N,N',N'-tetramethylethylenediamine | 0.080 mol, 9.3 g | CN(CCN(C)C)C | C6H16N2
reactant | 4,4'-dichlorobenzophenone | 0.078 mol, 19.5 g | ClC1=CC=C(C(=O)C2=CC=C(C=C2)Cl)C=C1 | C13H8Cl2O
reactant | carbon dioxide | C(=O)=O | CO2
solvent | n-hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | α,α-Bis(p-chlorophenyl)-4,5-dimethyl-1-(1-propenyl)imidazole-2-methanol | ClC1=CC=C(C=C1)C(O)(C=1N(C(=C(N1)C)C)C=CC)C1=CC=C(C=C1)Cl | C21H20Cl2N2O
